US07157487B2
Phosphoryl chloride (5.87 ml, 63.0 mmol) was added in portions while stirring DMF (45 ml) at 0° C. After stirring at the same temperature for 20 minutes, the reaction mixture was added with a solution of 6-fluoro-1-methylindole (6.71 g, 45.0 mmol) in DMF (45 ml) at 0° C. The reaction mixture was stirred for further 0.5 hour. Ice water and 1N NaOH were added to the reaction mixture to neutralize the same, followed by extraction with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column, whereby from ethyl acetate eluate fractions, 6-fluoro-1-methylindole-3-carbaldehyde (4.18 g, 52%) was obtained as a colorless solid.

reactant | Phosphoryl chloride | 63.0 mmol, 5.87 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 6-fluoro-1-methylindole | 45.0 mmol, 6.71 g | FC1=CC=C2C=CN(C2=C1)C | C9H8FN
reactant | NaOH | 1N | [OH-].[Na+]
reactant | DMF | 45 ml | CN(C)C=O | C3H7NO
reactant | DMF | 45 ml | CN(C)C=O | C3H7NO
product | 6-fluoro-1-methylindole-3-carbaldehyde | 4.18 g, 52% | FC1=CC=C2C(=CN(C2=C1)C)C=O | C10H8FNO
